US08106236B2
Preparation of (4,4″-Dichloro-[1,1′;3′,1″]terphenyl-5′-yl)-acetic acid methyl ester
A solution of (3,5-bis-trifluoromethanesulfonyloxy-phenyl)-acetic acid methyl ester (250 mg, 0.56 mmol), 4-chlorophenyl boronic acid (219 mg, 1.4 mmol), K2CO3 (2 M solution in H2O, 1.1 mL, 2.24 mmol) in DME (4.0 mL) and heated to 80° C. in the presence of bis(tri-t-butylphosphine) palladium (0) (cat) for 4 hrs. The mixture was cooled to room temperature filtered, diluted with EtOAc, washed with Na2CO3, dil HCl, brine, dried (MgSO4) and evaporated under reduced pressure to give an off white solid. The residue was purified by flash column chromatography (EtOAc:petroleum ether), 1H NMR (CDCl3) δ 7.61 (t, 1H), 7.55 (d, 4H), 7.46 (d, 2H), 7.42 (d, 4H), 3.75 (s, 2H), 3.73 (s, 3H).

reactant | (3,5-bis-trifluoromethanesulfonyloxy-phenyl)-acetic acid methyl ester | 0.56 mmol, 250 mg | COC(CC1=CC(=CC(=C1)OS(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F)=O | C11H8F6O8S2
reactant | 4-chlorophenyl boronic acid | 1.4 mmol, 219 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 2.24 mmol, 2 M, 1.1 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 4.0 mL | COCCOC | C4H10O2
catalyst | bis(tri-t-butylphosphine) palladium (0) | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | (4,4″-Dichloro-[1,1′;3′,1″]terphenyl-5′-yl)-acetic acid methyl ester | COC(CC=1C=C(C=C(C1)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C21H16Cl2O2
